US04420424
(A) Z-Ile-Phe-OBut
1.3 ml of N-ethylmorpholine are added to the solution of 2.65 g of Z-Ile-OH, 2.58 g of H-Phe-OBut and 1.35 g of HOBt in 30 ml of dimethylformamide and 2.2 g of DCC are added to 0° C. The mixture is allowed to stand for 1 hour at 0° C. and overnight at room temperature. On the following day the precipitate is filtered off and the filtrate is concentrated. The residue is partitioned between ethyl acetate and water. The ethyl acetate phase is extracted by shaking with 20 ml of saturated NaHCO3 solution, 20 ml of K2SO4 /KHSO4 solution and 20 ml of NaHCO3 solution and is dried over Na2SO4 and concentrated. The product crystallizes from petroleum ether. Yield 3.7 g, melting point 122°-125°.

reactant | N-ethylmorpholine | 1.3 ml | C(C)N1CCOCC1 | C6H13NO
reactant | Z-Ile-OH | 2.65 g | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | H-Phe-OBut | 2.58 g | N[C@@H](CC1=CC=CC=C1)C(=O)OC(C)(C)C | C13H19NO2
reactant | HOBt | 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 2.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Z-Ile-Phe-OBut | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C27H36N2O5
